US04885292
A solution of diisopropylethylamine (8.7 ml., 50 mmole) in tetrahydrofuran (50 ml.) is added dropwise to a mixture of N-[(1,1-dimethylethoxy) carbonyl]-L-phenylalanine (13.265 g., 50 mmole), L-leucine, methyl ester (9.085 g., 50 mmole) and 1-hydroxybenzotriazole hydrate (7.65 g., 50 mmole) in tetrahydrofuran (100 ml.) at 0°. This is followed by the addition of dicylcohexylcarbodiimide (10.315 g., 50 mmole). The reaction is stirred at 0°for 2 hours and left stirring overnight at room temperature. The nexy day, the precipitated dicyclohexyl urea is filtered off, the solvents are stirred down and the residue is diluted with ethyl acetate (200 ml.). The organic solution is washed sequentially with saturated aqueous sodium bicarbonate solution (2×100 ml.) and saturated aqueous sodium chloride (2×100 ml.), dried over sodium sulfate, filtered, and concentrated to give crude product. Crystallization from ethyl ether gives 7.05 g. of pure product. Concentration of the mother liquor solutions gives 4.57 g. of crystalline product. An additional 1.35 g. of product is obtained by chromatographic purification of the crude product obtained from the left-over mother liquors (40 g. silica gel, eluting with 4:1 hexane:ethyl acetate). Thus, a total of 12.96 g. of N-[N-[(1,1 -dimethylethoxy)carbonyl]-L-leucine, methyl ester is obtained;

reactant | diisopropylethylamine | 50 mmole, 8.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-[(1,1-dimethylethoxy) carbonyl]-L-phenylalanine | 50 mmole, 13.265 g | CC(C)(OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C | C14H19NO4
reactant | L-leucine, methyl ester | 50 mmole, 9.085 g | N[C@@H](CC(C)C)C(=O)OC | C7H15NO2
reactant | 1-hydroxybenzotriazole hydrate | 50 mmole, 7.65 g | O.ON1N=NC2=C1C=CC=C2
reactant | dicylcohexylcarbodiimide | 50 mmole, 10.315 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-[(1,1 -dimethylethoxy)carbonyl]-L-leucine, methyl ester | CC(C)(OC(=O)N[C@@H](CC(C)C)C(=O)OC)C | C12H23NO4
